US05073641
2-(4-AMINOBENZOYLOXY)-N,N-DIETHYLACETAMIDE
A mixture of 4-aminobenzoic acid (1.37 g. 0.01 mole), 2-chloro-N,N-diethylacetamide 2.0 ml, 0.015 mole) and 1.8-diazabicyclo[5.4.0]-undec-7-ene (1.52 g, 0.01 mole) in benzene (20 ml) was stirred at 80° C. for 4 h and then evaporated in vacuo. The residue was taken up in ethyl acetate. After washing with 5% sodium bicarbonate and water the ethyl acetate extract was dried and evaporated in vacuo leaving crude title compound. Recrystallization from ethanol-water gave 1.5 g (60%). Mp 135°-136° C.

reactant | 4-aminobenzoic acid | 0.01 mole, 1.37 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 2-chloro-N,N-diethylacetamide | 0.015 mole, 2.0 ml | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | 1.8-diazabicyclo[5.4.0]-undec-7-ene | 0.01 mole, 1.52 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-AMINOBENZOYLOXY)-N,N-DIETHYLACETAMIDE | NC1=CC=C(C(=O)OCC(=O)N(CC)CC)C=C1 | C13H18N2O3
